US07618985B2
A solution of (R)-3-methanesulfonyloxypyrrolidine-1-carboxylic acid tert-butyl ester (2.95 g) in N, N-dimethylformamide (2 ml) was added dropwise to a stirred solution of 1-amino-6-hydroxyisoquinoline (1.2 g, 7.4 mmol) and K2CO3 (1.02 g, 7.4 mmol) in N, N-dimethylformamide (10 ml) at 100° C. The mixture was stirred for 1 h then cooled and water added. The mixture was acidified with glacial acetic acid then diluted with methanol. The mixture was loaded onto a pre-acidified SCX column using methanol and eluted with 2M ammonia in methanol to afford crude (S)-6-(pyrrolidin-3-yloxy)isoquinolin-1-ylamine, which was purified by flash chromatography on silica (eluent: 10% methanol in DCM with 1% ammonium hydroxide), El-MS: m/z=230.3 [M+H]+.

reactant | (R)-3-methanesulfonyloxypyrrolidine-1-carboxylic acid tert-butyl ester | 2.95 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OS(=O)(=O)C | C10H19NO5S
reactant | 1-amino-6-hydroxyisoquinoline | 7.4 mmol, 1.2 g | NC1=NC=CC2=CC(=CC=C12)O | C9H8N2O
reactant | K2CO3 | 7.4 mmol, 1.02 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | N, N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N, N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (S)-6-(pyrrolidin-3-yloxy)isoquinolin-1-ylamine | N1C[C@H](CC1)OC=1C=C2C=CN=C(C2=CC1)N | C13H15N3O
